US04288472
A solution of 10 wt. % benzoyl peroxide in chloroform (first catalyst) was prepared and sprayed with an atomizer onto a root model made of gypsum. The monomeric mixture contained 59 wt. % bis-GMA, 19 wt. % triethylene glycol dimethacrylate and 20 wt. % bisphenol A dimethacrylate to which 2 wt. % N,N-dimethyl-p-toluidine (second catalyst) had been added. The monomeric mixture was likewise sprayed evenly but in excess onto the root model with an atomizer. The root model so treated was then allowed to stand for 3 minutes at about 22° C. It was found that except for a thin film the excess monomer had not polymerized even after that time, when it was washed off with ethanol. Measurement of the film showed that it had a thickness of 75μ. No significant variations in film thickness were observed.

reactant | bis-GMA | CC(=C)C(=O)OCC(COC1=CC=C(C=C1)C(C)(C)C2=CC=C(C=C2)OCC(COC(=O)C(=C)C)O)O | C29H36O8
reactant | triethylene glycol dimethacrylate | C(C(=C)C)(=O)OCCOCCOCCOC(C(=C)C)=O | C14H22O6
reactant | bisphenol A dimethacrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O
reactant | N,N-dimethyl-p-toluidine | CN(C1=CC=C(C=C1)C)C | C9H13N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
